US05665753
d) 2-(S)-(2,2-dimethyl-5-oxo-1.3-dioxolan-4-(R)-yl)-4-methylpentanoic acid pentafluorophenyl ester
A solution of 2-(S)-(2,2-dimethyl-5-oxo-1.3-dioxolan-4-(R)-yl)-4-methylpentanoic acid (1.1 g, 4.78 mmole), pentafluorophenol (970 mg, 5.27 mmole), and 1-dimethylaminopropyl-3-ethyl carbodiimide methiodide (1.42 g, 4.78 mmole) in CH2Cl2 (25 ml) was stirred at 23° for 24 h. The reaction was washed with H2O, 5% aqueous K2CO3, H2O, dried (K2CO3), and the solvent evaporated, to yield the title compound (1.39 g, 74%).

reactant | 2-(S)-(2,2-dimethyl-5-oxo-1.3-dioxolan-4-(R)-yl)-4-methylpentanoic acid | 4.78 mmole, 1.1 g | CC1(OC([C@H](O1)[C@@H](C(=O)O)CC(C)C)=O)C | C11H18O5
reactant | pentafluorophenol | 5.27 mmole, 970 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(S)-(2,2-dimethyl-5-oxo-1.3-dioxolan-4-(R)-yl)-4-methylpentanoic acid pentafluorophenyl ester | 1.39 g, 74% | FC1=C(C(=C(C(=C1OC([C@@H](CC(C)C)[C@H]1OC(OC1=O)(C)C)=O)F)F)F)F | C17H17F5O5
